US07553836B2
Step C. Preparation N-(3-chloro-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-4-(4-chlorophenyl)-1H-pyrrole-2-carboxamide
3-Chloro-4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine was converted to the title compound (20 mg) by acylation with 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid following the procedure described in step C of Example 1. MS (ESI) 444 (M+H)+.

reactant | 3-Chloro-4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine | ClC=1C=C(C=CC1OCCN1CCCC1)N | C12H17ClN2O
reactant | 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)O | C11H8ClNO2
product | N-(3-chloro-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-4-(4-chlorophenyl)-1H-pyrrole-2-carboxamide | 20 mg | ClC=1C=C(C=CC1OCCN1CCCC1)NC(=O)C=1NC=C(C1)C1=CC=C(C=C1)Cl | C23H23Cl2N3O2
